US05364871
A suspension of 1-bromo-2,3-butanedione (47 g) and N-[(thiocarbamoyl)methyl]acetamide (30 g) in acetone (600 ml) was refluxed for 3 hours. The resulting precipitate was collected by filtration to afford 4-acetyl-2-(acetylaminomethyl)thiazole (41.8 g).

reactant | 1-bromo-2,3-butanedione | 47 g | BrCC(C(C)=O)=O | C4H5BrO2
reactant | N-[(thiocarbamoyl)methyl]acetamide | 30 g | C(N)(=S)CNC(C)=O | C4H8N2OS
solvent | acetone | 600 ml | CC(=O)C | C3H6O
product | 4-acetyl-2-(acetylaminomethyl)thiazole | 41.8 g | C(C)(=O)C=1N=C(SC1)CNC(C)=O | C8H10N2O2S
